Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
positive blood culture
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: Patient is a ___ female who underwent URS/LL for obstructing
right sided ureteral stone ___. She was discharged following 
the
procedure. One of her blood cultures taken in the ED on ___
resulted as ___ for GNR and the patient was called by the ED to
return to admission while sensitivities pended

To summarize her recent course in detail: 

The patient developed severe right flank pain and nausea on a
drive up to ___ over the weekend and went to the ___ on ___ where she was found to have a UTI
(Pan-sensitive Klebsiella) and an obstructing 3mm right UVJ
stone. She was discharged home with antibiotics. She has
continued to have some right flank pain and nausea. She had a
temp of 100.3 at home this morning and elected to come to the ED
for evaluation. She presently has ___ pain after 15mg of
Toradol. She presently has no nausea. She denies hematuria,
dysuria, urgency or frequency.

on ___ in ED:
___ 8.8
Cr 1.3
UA: Notable for 7WBC, no Bacteria, blood or nitrites

Given overall clinical picture and patient's desire to have the
stone removed, we elected to take her to the OR for a right 
sided
stent and ureteroscopy. The operation went well without
complication. She received perioperative Ceftriaxone. She was
discharged home following the operation.

now on her return to the ED she reports no fevers, chills,
nausea. She has some mild right flank pain from the surgery. She
does report feeling like she had a UTI with urinary frequency 
and
some mild dysuria however she attributed this to the stent.
Notably, her UA in the ED was grossly positive for bacteria, WBC
and nitrites. 

 
Past Medical History:
HSV of oral mucosa
 
Social History:
Occasional alcohol.
non smoker
 
Physical Exam:
General: A&Ox3, NAD
Cards: no respiratory distress, RRR
Abd: Soft, NT, ND, no CVA tenderness
ext: WWP
 
Brief Hospital Course:
Patient was admitted for positive blood culture x 1 from ED on 
___ prior to her surgery for the stone. Following the operation 
she went home and had no fevers or pain, only mild LUTS. She was 
initiated on IV Ceftriaxone and observed from ___. Her 
hospitalization was uneventful. She never had a fever or 
significant symptoms. Her blood culture grew out pan sensitive 
KLEBSIELLA PNEUMONIAE. Her urine culture grew out GARDNERELLA 
VAGINALIS. on ___ she was started on FLagyl for the GV. on ___ 
she was transitioned to oral Cipro. She was at her baseline 
level of function on ___ and deemed suitable for discharge 
home.

She was given 11 days of CIPRO for total ABx course 14 days 
(complex UTI and +Blood stream infection). 

She was given 7 days of oral flagyl.

She will follow up in Clinic on ___ for stent removal. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cephalexin 500 mg PO Q8H 
2. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
3. Oxybutynin 5 mg PO TID 
4. Phenazopyridine 100 mg PO TID 
5. LORazepam 0.5 mg PO Frequency is Unknown 
6. ValACYclovir 500 mg PO Q24H 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
Complete entire 11 day course of antibiotic. Do not drink 
alcohol while taking antibiotics.  
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*22 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO/NG BID Duration: 7 Days 
Please take complete ___o not drink alcohol while 
on this medication.  
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*14 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO QHS:PRN anxiety  
4.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
5.  Acyclovir 500 mg PO Q24H  
6.  Oxybutynin 5 mg PO TID  
7.  Phenazopyridine 100 mg PO TID  
8.  Tamsulosin 0.4 mg PO QHS  
9.  ValACYclovir 500 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bacteremia with Klebsiella

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.  You may aslo experience some 
pain associated with spasm of your ureter.

-The kidney stone may or may not have been removed AND/or there 
may be fragments/others still in the process of passing.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•    AVOID lifting/pushing/pulling items heavier than 10 pounds 
(or 3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your nephrostomy 

-Do not drive or drink alcohol while taking narcotics or 
antibiotics and do not operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

 
Followup Instructions:
___